US04130657
[1,1'-Biphenyl]-3-ylmethyl 3-(2,2-dibromoethenyl)-2,2-dimethycyclopropanecarboxylate was prepared by the method described in Example 1B above using potassium hydroxide (0.66 g, 0.12 mole), 3-(2,2-dibromoethenyl)-2,2-dimethylcyclopropanecarboxylic acid (5.3 g, 0.12 mole), which may be prepared according to the method of Elliott, et al., U.S. Pat. No. 4,024,163, 3-bromomethylbiphenyl (2.7 g, 0.12 mole), and 0.1 g of 1,4-diazabicyclo[2.2.2]octane.

reactant | potassium hydroxide | 0.12 mole, 0.66 g | [OH-].[K+]
reactant | 3-(2,2-dibromoethenyl)-2,2-dimethylcyclopropanecarboxylic acid | 0.12 mole, 5.3 g | BrC(=CC1C(C1C(=O)O)(C)C)Br | C8H10Br2O2
reactant | 3-bromomethylbiphenyl | 0.12 mole, 2.7 g | BrCC=1C=C(C=CC1)C1=CC=CC=C1 | C13H11Br
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.1 g | N12CCN(CC1)CC2 | C6H12N2
product | [1,1'-Biphenyl]-3-ylmethyl 3-(2,2-dibromoethenyl)-2,2-dimethycyclopropanecarboxylate | BrC(=CC1C(C1C(=O)OCC=1C=C(C=CC1)C1=CC=CC=C1)(C)C)Br | C21H20Br2O2
